US07435815B2
2-(3-Dimethylamino-phenylamino)-N-ethyl-N-pyridin-2-ylmethyl-acetamide
A suspension of ethyl-pyridin-2-ylmethyl-amine (41.1 mmol) and DIPEA (112 mmol) in DMF (200 mL) was cooled to −20° C. and added to a cold (−20° C.) solution of (3-dimethylamino-phenylamino)-acetic acid (37.4 mmol) and TBTU (48.6 mmol) in DMF (300 mL). The reaction mixture was stirred for 10 min at −20° C. Water (500 mL) and ethyl acetate (500 mL) were added, the layers were separated and the organic layer washed with water (4×200 mL). The combined aqueous layers were extracted with ethyl acetate (300 mL). The combined organic layers were washed with NaOH solution (1.0 mol/L, 100 mL) and brine (100 mL) and dried over Na2SO4. The solvents were removed in vacuo and the obtained solid was dissolved in ethanol. A solution of hydrogen chloride in ether was added at 0° C., the solvents were removed and the residue was crystallized from ethanol/ether to give 7.6 g product as white crystals.

reactant | ethyl-pyridin-2-ylmethyl-amine | 41.1 mmol | C(C)NCC1=NC=CC=C1 | C8H12N2
reactant | DIPEA | 112 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | (3-dimethylamino-phenylamino)-acetic acid | 37.4 mmol | CN(C=1C=C(C=CC1)NCC(=O)O)C | C10H14N2O2
reactant | TBTU | 48.6 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 500 mL | O | H2O
product | 2-(3-Dimethylamino-phenylamino)-N-ethyl-N-pyridin-2-ylmethyl-acetamide | 7.6 g | CN(C=1C=C(C=CC1)NCC(=O)N(CC1=NC=CC=C1)CC)C | C18H24N4O
